US05703158
286.2 g of Rucoflex XS-5570-55, 675.0 g of Rucoflex S-1011-35 and 20.1 g of DMPA are reacted with 132.3 g of HDI at 80° C. for 2 hours to prepare a prepolymer. The prepolymer is then dispersed in a solution of 8.4 g of NaOH and 4.8 g of EA in 1961.0 g of water. After 15 minutes, a solution of 4.7 g of EDA and 5.4 g of DETA in 150.0 g of water is added to form an aqueous poly(urethane/urea) dispersion. A finely divided dispersion having a solids content of 35.1% and a pH of 7.2 is obtained.

reactant | DMPA | 20.1 g | CC(C)NP(=S)(OC)OC1=C(C=C(C=C1)Cl)Cl | C10H14Cl2NO2PS
reactant | NaOH | 8.4 g | [OH-].[Na+]
reactant | EA | 4.8 g | CC(OCC)=O | C4H8O2
reactant | DETA | 5.4 g | CCN(CC)C(=O)C1=CC(=CC=C1)C | C12H17NO
solvent | water | 1961.0 g | O | H2O
solvent | water | 150.0 g | O | H2O
product | urethane urea | NC(=O)OCC.NC(=O)N | InChI=1S/C3H7NO2.CH4N2O/c1-2-6-3(4)5;2-1(3)4/h2H2,1H3,(H2,4,5);(H4,2,3,4)
